US08754229B2
To a solution of 4-amino-6-chloro-5-fluoropicolinic acid (23.8 g, 125 mmol) in MeOH (400 ml), cooled in an ice water bath, thionyl chloride (11.78 ml, 162 mmol) was added. The reaction mixture was heated to an internal temperature of 50° C., for 8 hours. The reaction mixture was then diluted with H2O, and extracted with EtOAC (3×100 mL). The combined organics were washed with Sat. NaCl, dried over Mg Sulfate, filtered and concentrated under vacuum to give methyl 4-amino-6-chloro-5-fluoropicolinate (21.9 g, 107 mmol, 86% yield).

reactant | 4-amino-6-chloro-5-fluoropicolinic acid | 125 mmol, 23.8 g | NC1=CC(=NC(=C1F)Cl)C(=O)O | C6H4ClFN2O2
reactant | thionyl chloride | 162 mmol, 11.78 ml | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 400 ml | CO | CH4O
solvent | H2O | O | H2O
product | methyl 4-amino-6-chloro-5-fluoropicolinate | 107 mmol, 21.9 g, 86% yield | NC1=CC(=NC(=C1F)Cl)C(=O)OC | C7H6ClFN2O2
